US08461134B2
2,4-Diamino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzene sulfonamide
To a solution of N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2,4-dinitrobenzenesulfonamide (0.43 g, 1.14 mmol) was added Raney-Ni (100 mg), following by degas and replacement of air with H2. The reaction mixture was hydrogenated at room temperature for 2 hours. Once the reaction was completed (LC/MS), the mixture was filtered through Celite®. The filtrate was concentrated in vacuo to give a gummy material. The crude product was recrystallized in MeOH to give the title compound as an off-white solid (0.32 g). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.77 (s, 1H), 9.15 (s, 1H), 7.41 (s, 1H), 7.10˜7.18 (m, 3H), 5.72˜5.73 (m, 2H), 5.60 (s, 1H), 5.52 (s, 2H), 4.84 (s, 2H); MS (ESI) m/z=318 (M−1, negative); HPLC purity: 99.6% (MaxPlot 200-400 nm), 99.3% (220 nm).

reactant | N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2,4-dinitrobenzenesulfonamide | 1.14 mmol, 0.43 g | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-] | C13H10BN3O8S
catalyst | Ni | 100 mg | [Ni] | Ni
product | 2,4-Diamino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzene sulfonamide | 0.32 g | NC1=C(C=CC(=C1)N)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1 | C13H14BN3O4S
